US06255336B1
2-Palmitoylamino-3′,4′-(ethylenedioxy)acetophenone
Aminoacetophenone HCl (7.1 g, 31 mmol) and tetrahydrofuran (300 ml) were placed in a 1 liter three-neck round bottom flask with a large stir bar. Sodium acetate (50% in water, 31 ml) was added in three portions to this suspension. Palmitoyl chloride (31 ml, 10% excess, 0.036 mol) in tetrahydrofuran (25 ml) was then added dropwise over 20 min to yield a dark brown solution. This mixture was then stirred for an additional 2 h at room temperature. The resultant mixture was poured into a separatory funnel to remove the aqueous solution. Chloroform/methanol (2/1, 150 ml) was then added to the organic layer and washed with water (50 ml). The yellow aqueous layer was extracted once with chloroform (50 ml). The organic solutions were pooled and rotoevaportated until almost dry. The residue was redissolved in chloroform (100 ml) and crystallized by the addition of hexane (400 ml). The flask was then cooled to 4° C. for 2 h. The crystals were filtered and washed with cold hexane until they were almost white and then dried in a fume hood overnight. The yield of the product was 27 mmol (11.6 g).

reactant | Aminoacetophenone HCl | 31 mmol, 7.1 g | Cl.NCC(=O)C1=CC=CC=C1
reactant | Sodium acetate | 31 ml | C(C)(=O)[O-].[Na+]
reactant | Palmitoyl chloride | 0.036 mol, 31 ml | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
reactant | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 2-Palmitoylamino-3′,4′-(ethylenedioxy)acetophenone | C(CCCCCCCCCCCCCCC)(=O)NCC(=O)C1=CC2=C(C=C1)OCCO2 | C26H41NO4
